US05300503
Under a nitrogen atmosphere, a suspension of 1.6 grams (0.041 mole) of 60% sodium hydride (in mineral oil) in dimethylformamide was stirred, and 5.4 grams (0.041 mole) of 1,1-dimethylethyl N-hydroxycarbamate was carefully added portionwise. Upon completion of the evolution of hydrogen, 5.8 grams (0.032 mole) of naphth-1-ylmethyl chloride was added. Upon completion of addition, the reaction mixture was stirred for about 30 minutes. After this time the reaction mixture was poured into 200 ml of water. The mixture was extracted with 200 ml of diethyl ether. The ether extract was washed with three 50 ml portions of water. The organic layer was concentrated under reduced pressure to a residual oil. The oil was purified by column chromatography on silica gel. Elution was accomplished with mixtures of 5% to 20% diethyl ether in petroleum ether. The appropriate fractions were combined and concentrated under reduced pressure, yielding 3.4 grams of 1,1-dimethylethyl N-(naphth-1-ylmethoxy)carbamate. The NMR spectrum was consistent with the proposed structure.

reactant | sodium hydride | 0.041 mole, 1.6 grams | [H-].[Na+]
reactant | 1,1-dimethylethyl N-hydroxycarbamate | 0.041 mole, 5.4 grams | ONC(OC(C)(C)C)=O | C5H11NO3
reactant | hydrogen | [H][H] | H2
reactant | naphth-1-ylmethyl chloride | 0.032 mole, 5.8 grams | C1(=CC=CC2=CC=CC=C12)CCl | C11H9Cl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 1,1-dimethylethyl N-(naphth-1-ylmethoxy)carbamate | 3.4 grams | C1(=CC=CC2=CC=CC=C12)CONC(OC(C)(C)C)=O | C16H19NO3
